USRE037729E1
Ethyl 3-[4-(6-Fluoro-1,2-benzisothiazol-3-yl)-1-piperidinyl]propionate Hydrochloride
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisothiazole (6.0 g, 25 mmol) ethyl 3-bromopropionate (4.5 g, 25 mmol), K2CO3 (3.5 g) and CH3CN (100 ml) was stirred and refluxed for 16 hours. The reaction was poured into H2O, and after extractive workup with EtOAc, 6.0 g of an orange oil was realized. The oil was dissolved in Et2O and ethereal HCl and added to precipitate 6.3 g of a white hydrochloride salt. The salt was recrystallized from CH3CN to yield 6.0 g (64% ) of the desired compound. An analytical sample was obtained by recrystallization of a 1.0 g sample from EtOH-Et2O to yield 0.8 g of a white solid, m.p.=197°-199° C. ANALYSIS: Calculated for C17H21FN2O2S.HCl: 54.76% C 5.95% H 7.51% N Found: 54.77% C 5.99% H 7.28% N

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisothiazole | 25 mmol, 6.0 g | FC1=CC2=C(C(=NS2)C2CCNCC2)C=C1 | C12H13FN2S
reactant | K2CO3 | 3.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3CN | 100 ml | CC#N | C2H3N
reactant | HCl | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | Ethyl 3-[4-(6-Fluoro-1,2-benzisothiazol-3-yl)-1-piperidinyl]propionate Hydrochloride | 6.0 g, 64% | Cl.FC1=CC2=C(C(=NS2)C2CCN(CC2)CCC(=O)OCC)C=C1 | InChI=1S/C17H21FN2O2S.ClH/c1-2-22-16(21)7-10-20-8-5-12(6-9-20)17-14-4-3-13(18)11-15(14)23-19-17;/h3-4,11-12H,2,5-10H2,1H3;1H
